US04329347
6-[4-(4-Hydroxy,3,5-di-tert. butylphenyl-sulfinyl)butoxy]-carbostyril
Prepared analogous to Example 123 from 6-[4-(4-hydroxy-3,5-di-tert. butylphenyl-mercapto)-butoxy]-carbostyril and hydrogen peroxide.

reactant | 6-[4-(4-hydroxy-3,5-di-tert. butylphenyl-mercapto)-butoxy]-carbostyril | OC1=C(C=C(C=C1C(C)(C)C)SCCCCOC=1C=C2C=CC(NC2=CC1)=O)C(C)(C)C | C27H35NO3S
reactant | hydrogen peroxide | OO | H2O2
product | 6-[4-(4-Hydroxy,3,5-di-tert. butylphenyl-sulfinyl)butoxy]-carbostyril | OC1=C(C=C(C=C1C(C)(C)C)S(=O)CCCCOC=1C=C2C=CC(NC2=CC1)=O)C(C)(C)C | C27H35NO4S
